US08030337B2
N-[2-(2-Methoxy-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) and tetramethoxymethane (151 mg, 1.11 mmol) were heated under reflux in tetrahydrofuran (3.7 mL) for 2 hr. The reaction solution was diluted with ethyl acetate and saturated aqueous sodium hydrogencarbonate solution, washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→95/5) to give the title compound (58.4 mg, yield 58%).

reactant | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | tetramethoxymethane | 1.11 mmol, 151 mg | COC(OC)(OC)OC | C5H12O4
solvent | tetrahydrofuran | 3.7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | N-[2-(2-Methoxy-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 58.4 mg, yield 58% | COC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C15H18N2O3
